US08293768B2
Synthesis of 4-methyl-2-(2-oxo-3-phenylimidazolidin-1-yl)thiazole-5-carboxylic acid
To a solution of ethyl 4-methyl-2-(2-oxo-3-phenylimidazolidin-1-yl)thiazole-5-carboxylate (1.49 g, 4.49 mmol) in tetrahydrofuran (30 mL), methanol (10 mL) and water (10 mL) was added lithium hydroxide monohydrate (0.38 g, 9.00 mmol) at ambient temperature. The resulting reaction mixture was heated to reflux for 14 hours. The solvent was removed in vacuo, and the residue was neutralized to pH 4˜5 with 10% hydrochloric acid. The resulting precipitate was filtered and dried to afford the title compound in 93% yield (1.27 g): mp 286-289° C.; 1H NMR (300 MHz, DMSO-d6) δ 7.88-7.34 (m, 5H), 4.10-3.76 (m, 4H), 2.49 (s, 3H); MS (ES+) m/z 304.3 (M+1).

reactant | ethyl 4-methyl-2-(2-oxo-3-phenylimidazolidin-1-yl)thiazole-5-carboxylate | 4.49 mmol, 1.49 g | CC=1N=C(SC1C(=O)OCC)N1C(N(CC1)C1=CC=CC=C1)=O | C16H17N3O3S
reactant | lithium hydroxide monohydrate | 9.00 mmol, 0.38 g | O.[OH-].[Li+]
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | methanol | 10 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
product | 4-methyl-2-(2-oxo-3-phenylimidazolidin-1-yl)thiazole-5-carboxylic acid | 93% yield | CC=1N=C(SC1C(=O)O)N1C(N(CC1)C1=CC=CC=C1)=O | C14H13N3O3S
